US08211930B2
(S)-(−)-tetrahydrothiophene-3-amine-1,1-dioxide hydrochloride (I6)
(S)-(−)-N-(1,1-dioxidotetrahydrothiophen-3-yl)benzamide (I6a) (7.08 g) was suspended in aqueous 5M HCl (250 mL). The mixture was heated at 130° C. for 13 hours. After cooling in an ice-bath solid benzoic acid was removed by filtration and washed with 1M aqueous HCl, the combined filtrates were evaporated to dryness. The residue was re-suspended in 1,4-dioxane (40 mL), the colourless solid subtitle compound was isolated by filtration, washed with dioxane (10 mL) and dried to constant weight. Yield 4.99 g (98%).

reactant | (S)-(−)-N-(1,1-dioxidotetrahydrothiophen-3-yl)benzamide | 7.08 g | O=S1(C[C@H](CC1)NC(C1=CC=CC=C1)=O)=O | C11H13NO3S
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | HCl | 5M, 250 mL | Cl | ClH
product | (S)-(−)-tetrahydrothiophene-3-amine-1,1-dioxide hydrochloride | Cl.S1(C[C@H](CC1)N)(=O)=O | InChI=1S/C4H9NO2S.ClH/c5-4-1-2-8(6,7)3-4;/h4H,1-3,5H2;1H/t4-;/m0./s1
